US06479495B1
3-Propargyloxy-1-(pyrrolidin-1-yl)methyl-3-(triisopropylsiloxy)benzene
To a solution of 3-hydroxy-1-(pyrrolidin-1-yl)methyl-3-hydroxybenzene (0.95 g) in dry dimethylformamide (5 ml) was added by syringe, with stirring, diisopropylbutylamine (1.1 ml) followed by triisopropylsilyl chloride (0.97 ml). The reaction mixture was stirred at ambient temperature for 1 hr, ice (10 g) was added and after stirring for 10 mins, the mixture was poured into ice/water and extracted with ethyl acetate. The extract was washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was flash column chromatographed (silica gel) eluting with dichloromethane, 1%, 2% and 5% methanol/dichloromethane. The appropriate fractions were collected and concentrated to give 0.65 g of product. Additional fractions were collected, concentrated and chromatographed over silica gel. Concentration of the appropriate fractions gave 0.15 g of product. Total yield 0.80 g (50%).

reactant | 3-hydroxy-1-(pyrrolidin-1-yl)methyl-3-hydroxybenzene | 0.95 g | OC1(CC(=CC=C1)CN1CCCC1)O | C11H17NO2
reactant | diisopropylbutylamine | 1.1 ml | C(C)(C)N(CCCC)C(C)C | C10H23N
reactant | triisopropylsilyl chloride | 0.97 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-Propargyloxy-1-(pyrrolidin-1-yl)methyl-3-(triisopropylsiloxy)benzene | 0.65 g | C(C#C)OC1(CC(=CC=C1)CN1CCCC1)O[Si](C(C)C)(C(C)C)C(C)C | C23H39NO2Si
